US07713973B2
3-(3-Methyl-3H-imidazol-4-yl)-phenylboronic acid
1,3-Benzenediboronic acid (300 mg, 1.8 mmol), 5-bromo-1-methylimidazole (291 mg, 1.8 mmol), potassium phosphate (1.15 g, 5.4 mmol), tris(dibenzylideneacetone)dipalladium(0) (164 mg, 0.18 mmol), and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (142 mg, 0.36 mmol) were combined with DMA (3 mL) in a sealed tube purged with N2. The reaction was heated at 130° C. for 25 min in a microwave reactor. The solution was diluted with MeOH, filtered, and concentrated in vacuo. Purification by preparatory HPLC gave 166 mg (45%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.12 (s, 1H), 7.91-7.98 (m, 2H), 7.83 (s, 1H), 7.63 (d, J=7.6 Hz, 1H), 7.52 (t, J=7.6 Hz, 1H), 3.83 (s, 3H). [M+H] calc'd for C10H11BN2O2, 202; found, 202.

reactant | 1,3-Benzenediboronic acid | 1.8 mmol, 300 mg | C1(=CC(=CC=C1)B(O)O)B(O)O | C6H8B2O4
reactant | 5-bromo-1-methylimidazole | 1.8 mmol, 291 mg | BrC1=CN=CN1C | C4H5BrN2
reactant | potassium phosphate | 5.4 mmol, 1.15 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.36 mmol, 142 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.18 mmol, 164 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 3-(3-Methyl-3H-imidazol-4-yl)-phenylboronic acid | 166 mg, 45% | CN1C=NC=C1C=1C=C(C=CC1)B(O)O | C10H11BN2O2
